US06022978
2',4',6'-Trimethyl-3-nitro-biphenyl-2-carboxylic acid methyl ester
Under a nitrogen atmosphere in 20 ml of anhydrous dimethoxyethane (DME) was combined 1.44 g (5.54 mmol) of methyl 2-bromo-5-nitrobenzoate 1.68 g (11.1 mmol) of cesium fluoride and 192 mg of tetrakis(triphenylphosphine)palladium(0). The reaction was stirred for 5 minutes, at which point 1.00 g (6.09) of mesitylboronic acid was added. The solution was heated to reflux for 20 hours, and was then cooled and fractionated on silica gel using 6:1 hexane: ethyl acetate (EtOAc) to afford, after concentration in vacuo and refractionation using toluene, 5.65 g (54%) of the title compound.

reactant | methyl 2-bromo-5-nitrobenzoate | 5.54 mmol, 1.44 g | BrC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | cesium fluoride | [F-].[Cs+]
reactant | mesitylboronic acid | 1.00 g | C1(=C(C(=CC(=C1)C)C)B(O)O)C | C9H13BO2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 192 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2',4',6'-Trimethyl-3-nitro-biphenyl-2-carboxylic acid methyl ester | COC(=O)C=1C(=CC=CC1[N+](=O)[O-])C1=C(C=C(C=C1C)C)C | C17H17NO4
